US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid 2,5-difluoro-benzylamide
4-[4-(2-Aminoethyl)anilino]-N-(2,5-difluorobenzyl)-1-piperidinecarboxamide formate (0.50 g, 1.15 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.465 g, 1.15 mmol) according to Procedure G (eluant: 20:1 chloroform-methanol) to give the title compound (0.238 g, 0.29 mmol).

reactant | 4-[4-(2-Aminoethyl)anilino]-N-(2,5-difluorobenzyl)-1-piperidinecarboxamide formate | 1.15 mmol, 0.50 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)NCC2=C(C=CC(=C2)F)F)C=C1
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 1.15 mmol, 0.465 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid 2,5-difluoro-benzylamide | 0.29 mmol, 0.238 g | FC1=C(CNC(=O)N2CCC(CC2)NC2=CC=C(C=C2)CCNC[C@@H](COC2=CC=C(C=C2)O)O)C=C(C=C1)F | C30H36F2N4O4
